US07795236B2
tert-Butyl N-(2-benzyloxy-3′-dimethylcarbamoylbiphenyl-4-ylmethyl)carbamate
2-Hydroxy-3′-dimethylcarbamoylbiphenyl-4-ylmethyl-amine (0.74 g) and di-tert-butyl dicarbonate (0.63 g) were suspended in tert-butanol (10 mL), 2 mol/L aqueous sodium hydroxide (2.74 mL) was added, and the resulting mixture was stirred at room temperature for 3 hours. One mol/L hydrochloric acid was added to the reaction mixture and the whole was extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue obtained and potassium carbonate (0.29 g) were suspended in N,N-dimethylformamide (5 mL), benzyl bromide (0.25 mL) was added, and the resulting mixture was stirred at room temperature for 24 hours. One mol/L hydrochloric acid was added to the reaction mixture and the whole was extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue obtained was purified by column chromatography on silica gel (eluent: ethyl acetate/hexane=1/1) to give the title compound (0.71 g).

reactant | 2-Hydroxy-3′-dimethylcarbamoylbiphenyl-4-ylmethyl-amine | 0.74 g | OC1=C(C=CC(=C1)CN)C1=CC(=CC=C1)C(N(C)C)=O | C16H18N2O2
reactant | di-tert-butyl dicarbonate | 0.63 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium hydroxide | 2 mol/L, 2.74 mL | [OH-].[Na+]
reactant | hydrochloric acid | One mol/L | Cl | ClH
reactant | potassium carbonate | 0.29 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 0.25 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | hydrochloric acid | One mol/L | Cl | ClH
solvent | tert-butanol | 10 mL | C(C)(C)(C)O | C4H10O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | tert-Butyl N-(2-benzyloxy-3′-dimethylcarbamoylbiphenyl-4-ylmethyl)carbamate | 0.71 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)CNC(OC(C)(C)C)=O)C1=CC(=CC=C1)C(N(C)C)=O | C28H32N2O4
